US07157092B1
7. (2R)-5-Amino-2-[(R)-3-benzyloxytetradecanoylamino]pentan-1-ol
In a three neck-flask, 150 mg of 20% palladium/carbon were added to the solution of (2R)-5-(Benzyloxycarbonylamino)-2-[(R)-3-benzyloxytetradecanoylamino]pentan-1-ol (3.0 g, i.e. 5.27 mmol) and 6 ml of triethylamine in 300 ml of HPLC-grade ethanol, Air was discharged under vacuum then the flask was loaded with hydrogen. The reaction mixture was stirred at room temperature for 2 hours then the catalyst was filtered off by membrane filtration and the filtrate was concentrated to provide a homogenous white solid as shown by TLC, to be used as such in the next step with no further purifcation, Rf=0.2, dichlormethane-methanol-triethylamine 5:10.5, m.p.=47–48° C.

reactant | (2R)-5-(Benzyloxycarbonylamino)-2-[(R)-3-benzyloxytetradecanoylamino]pentan-1-ol | 5.27 mmol, 3.0 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](CO)NC(C[C@@H](CCCCCCCCCCC)OCC1=CC=CC=C1)=O | C34H52N2O5
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | 150 mg | [Pd] | Pd
solvent | dichlormethane methanol triethylamine | ClCCl.CO.C(C)N(CC)CC
product | (2R)-5-Amino-2-[(R)-3-benzyloxytetradecanoylamino]pentan-1-ol | NCCC[C@H](CO)NC(C[C@@H](CCCCCCCCCCC)OCC1=CC=CC=C1)=O | C26H46N2O3
